US04536209
Production of N-[4-bromo-3-(1-methoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A solution of 2.5 g. of N-[4-bromo-3-(1-ethoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide in 30 ml. of methanol was prepared and HCl gas was bubbled at room temperature for 0.5 hour and then, the reaction mixture was kept for one night. The precipitate was separated by a filtration and washed with methanol to obtain 2.21 g. of Compound No. 16 shown in Table 1.

reactant | N-[4-bromo-3-(1-ethoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(C)C(=O)OCC | C19H20BrNO5
solvent | methanol | CO | CH4O
product | N-[4-bromo-3-(1-methoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(C)C(=O)OC | C18H18BrNO5
